US05688654
To a solution of 2-Nitrophenyl isocyanate (3.34 g) in 100 mL of toluene was added 3-Bromo-4-ethoxyaniline (3.1 g). The mixture was stirred at 20° C. for 30 min. Hexane (300 mL) was added and the resulting solid was filtered and dried to yield N-(2-Nitrophenyl)-N'-(3-bromo-4-ethoxyphenyl)-urea as a light yellow solid.

reactant | 2-Nitrophenyl isocyanate | 3.34 g | [N+](=O)([O-])C1=C(C=CC=C1)N=C=O | C7H4N2O3
reactant | 3-Bromo-4-ethoxyaniline | 3.1 g | BrC=1C=C(N)C=CC1OCC | C8H10BrNO
reactant | Hexane | 300 mL | CCCCCC | C6H14
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-Nitrophenyl)-N'-(3-bromo-4-ethoxyphenyl)-urea | [N+](=O)([O-])C1=C(C=CC=C1)NC(=O)NC1=CC(=C(C=C1)OCC)Br | C15H14BrN3O4
